Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Fragmin / levofloxacin
 
Attending: ___.
 
Chief Complaint:
fever, cough, pleuritic pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ history of HIV ("Good CD4 count", VL 
undetecable) who presents with 2 days of fevers, shourtness of 
beath, yellow productive cough, pleuritic chest pain on his 
right side. He reports fever of 104 on ___ and then onset of 
cough productive of yellow/greenish sputum, shortness of breath 
and pleuritic chest pain.  Decrease appetite with poor po 
intake. No recent travel outside the the country; no sick 
contact; no unprotected sexual intercourse. 

In the ED, initial vitals were: 101 96 126/63 22 96% RA 
- Labs were significant for WBC 24k with left shift.  Chem 10 
remarkable for Na 131, BUN/Cr ___.  Flu negative. CXR 
revealed multifocal pneumonia. Patient received vancomycin and 
levofloxacin, albuterol/ipratropium nebs and admitted for 
further care. 

On the floor, the patient is complaining of ongoing right sided 
pleuritic chest pain. He is comfortable on room air. 

Of note, Mr. ___ endorses a history of previous pneumonias that 
have required hospitalization but never intubation. He has been 
treated with levofloxavin several times but recently noted the 
developement of a rash. 

REVIEW OF SYSTEMS:
(+) Per HPI  
(-) Denies headache, sinus tenderness, rhinorrhea or congestion. 
 Denies nausea, vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits. No dysuria. 
Denies arthralgias or myalgias. 

 
Past Medical History:
- HIV with undetectable viral load and CD4 of 395 as of ___.
- Depression
- HSV
- recurrent pneumonias
- Positive PPD s/p INH therapy

 
Social History:
___
Family History:
No family history of allergies to medications. Otherwise 
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=============================
Vitals: 98.1  168/75  76  97%RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, dry mucous mebranes, no tonsilla 
exudates
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs
Lungs: Unlabored breathing, rhonchi left lower and right lower 
lobes with positive egophony, no wheezing 
Abdomen: Soft, non-tender, non-distended
Ext: Warm, well perfused
Skin: no rashes

DISCHARGE PHYSICAL EXAM: 
============================
Vitals: 98.7 ___ 66-70 18 97RA ___ 
IO - MN: 895/500
General: Alert, oriented, no acute distress, speaking in full 
sentences
HEENT: Sclera anicteric, dry mucous mebranes, no tonsilla 
exudates
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs
Lungs: Unlabored breathing, rhonchi left lower and right lower 
lobes with positive egophony, no wheezing 
Abdomen: Soft, non-tender, non-distended
Ext: Warm, well perfused
Skin: No rashes complete resolution of pruritic erythematous 
papules over arms, neck and legs. 

 
Pertinent Results:
ADMISSION LABS: 
======================
___ 08:45PM BLOOD WBC-24.8*# RBC-4.50* Hgb-13.7* Hct-39.1* 
MCV-87 MCH-30.4 MCHC-34.9 RDW-13.7 Plt ___
___ 08:45PM BLOOD Neuts-83.5* Lymphs-11.1* Monos-4.7 
Eos-0.6 Baso-0.1
___ 08:45PM BLOOD Glucose-133* UreaN-19 Creat-0.9 Na-131* 
K-4.2 Cl-96 HCO3-21* AnGap-18
___ 05:10AM BLOOD Calcium-8.5 Phos-2.5* Mg-1.7
___ 08:52PM BLOOD Lactate-1.6

IMAGING: 
======================
CXR ___: Multifocal  pneumonia,  right  greater  than  left.

MICRO: 
======================
__________________________________________________________
___ 5:27 am SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   LEGIONELLA CULTURE (Preliminary): 
__________________________________________________________
___ 4:57 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine ___ 
vary. 
__________________________________________________________
___ 8:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:34 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

DISCHARGE LABS: 
======================
___ 05:50AM BLOOD WBC-7.6# RBC-3.70* Hgb-11.2* Hct-33.1* 
MCV-89 MCH-30.2 MCHC-33.8 RDW-13.7 Plt ___
___ 05:50AM BLOOD Neuts-62.4 ___ Monos-5.9 Eos-1.0 
Baso-0.3
___ 05:50AM BLOOD ___ PTT-28.1 ___
___ 05:50AM BLOOD Glucose-91 UreaN-11 Creat-0.5 Na-139 
K-3.9 Cl-107 HCO3-22 AnGap-14
___ 05:50AM BLOOD ALT-20 AST-23 LD(LDH)-129 AlkPhos-69 
TotBili-0.2
___ 05:50AM BLOOD Calcium-8.2* Phos-2.7 Mg-1.___ history of HIV (CD4 395, VL undetecable) who presents with 2 
days of fevers, shortness of beath, yellow productive cough, 
pleuritic chest pain with CXR showing multifocal pneumonia. 

# Multifocal Community Acquired Pneumonia: Most likely from 
non-opportunistic organisms such as strep pneumonia or 
atypicals. Per patient he has been very compliant with his HIV 
med and last CD4 count was 395 and VL undetectable therefore 
making opportunistic infection such as PCP less likely. He is 
currently hemodynamically stable with normal lactate and normal. 
Creatinine suggesting good organ perfusion. He recieved 
levofloxacin and subsequently developed a rash, which has also 
been documented before so we will transition to alternate 
antibiotic regimen for CAP.
- Will treat for 8 day course of Augmentin + Azithromycin
- Urine strep Ag pending at time of discharge.

# Rash: Resolved. Mr. ___ developed a pruritic rash over arms, 
neck and leg after administration of vancomycin and levofloxacin 
in the ED. He improved with benadryl. He has a previous history 
of rash documented at ___ that occurred after 
administration of levofloxacin and fragmin. He tolerated 
levofloxacin subsequently without rash so this medication was 
continued at that time. The recurrence of this rash with 
levofloxacin is concerning for a true allergy. As such we will 
avoid this medication and transition to alternate treatment as 
above.
- levofloxacin allergy recorded at ___ and ___ 
___

# Hyponatremia: Sodium 131 on admission. This has been seen on 
prior hospitalization. Likely hypovolemic hyponatremia as 
improved with aggressive IV fluids. Sodium on discharge 136.
# HIV: continue Stribild
# Depression: continue Zoloft

TRANSITIONAL:
- complete 8 day course of augmentin and azithromycin
- Per previous records, CT scan in ___ showed RUL nodule that 
was most likely infectious in etiology. It was recommended that 
followup CT be obtained when infectious symptoms had resolved.

# CODE STATUS: Full Code 
# CONTACT: Landlord ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Stribild 1 TAB PO DAILY 
2. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
1. Sertraline 25 mg PO DAILY 
2. Stribild 1 TAB PO DAILY 
3. Acetaminophen 1000 mg PO Q8H:PRN pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every 12 hours Disp #*13 Tablet Refills:*0
5. Azithromycin 250 mg PO Q24H Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Community Acquired Pneumonia
SECONDARY: HIV (well controlled), Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure meeting and taking care of you. You were 
admitted with fever, cough and shortness of breath. You were 
found to have a pneumonia on a chest radiograph. You were 
initially treated with an antibiotic called levofloxacin, but 
developed a rash to this medication. We believe you are allergic 
to this medication as you have had a rash with it before. 
Instead of this medication, you should take medications called 
augmentin (a seven day course) and azithromycin (a four day 
course) to complete 8 total days of antibiotics. You should also 
followup with Dr. ___ as an outpatient. 

We wish you the best, 

Your ___ team  
 
Followup Instructions:
___